US08466282B2
Methyl 2-{(2-methylpropyl)[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]carbamoyl}-1-(4-methoxybutyl)-3H-benzimidazole-7-carboxylate dihydrochloride
Methyl 1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole-7-carboxylate (0.44 g) and tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (0.3 g) were dissolved in acetonitrile (5.0 ml) and water (5.0 ml), potassium carbonate (2.4 g) was added, and the mixture was stirred at 60° C. overnight. The reaction mixture was cooled to room temperature, and the mixture was extracted with ethyl acetate. The extract was washed successively with 10% aqueous citric acid solution, aqueous sodium bicarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (0:10→10:0) was concentrated under reduced pressure, and a fraction eluted with ethyl acetate was concentrated under reduced pressure. The residue was dissolved in 4N hydrochloric acid-ethyl acetate solution, and the mixture was stirred for 30 min. The reaction mixture was concentrated, purified by HPLC, and the object fraction was concentrated, diluted with aqueous calcium carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and converted to hydrochloride with 4N hydrochloric acid-ethyl acetate solution to give the object product (9.3 mg).

reactant | Methyl 1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole-7-carboxylate | 0.44 g | COCCCCN1C(=NC2=C1C(=CC=C2)C(=O)OC)C(Cl)(Cl)Cl | C15H17Cl3N2O3
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 0.3 g | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | water | 5.0 ml | O | H2O
product | Methyl 2-{(2-methylpropyl)[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]carbamoyl}-1-(4-methoxybutyl)-3H-benzimidazole-7-carboxylate dihydrochloride | 9.3 mg | Cl.Cl.CC(CN(C(=O)C1NC2=C(N1CCCCOC)C(=CC=C2)C(=O)OC)[C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)C | InChI=1S/C29H45N5O6.2ClH/c1-20(2)19-34(22-16-21(17-30-18-22)27(35)32-11-14-40-15-12-32)28(36)26-31-24-9-7-8-23(29(37)39-4)25(24)33(26)10-5-6-13-38-3;;/h7-9,20-22,26,30-31H,5-6,10-19H2,1-4H3;2*1H/t21-,22+,26?;;/m1../s1
